US07470717B2
A solution of 4-hydroxybenzaldehyde (10.0 g, 81.9 mmol) in chloroform (100 mL) was added with bromine (4.30 mL, 83.5 mmol), followed by stirring at room temperature for 2 hours. The reaction mixture was added with water (100 mL), and the solvent of the organic layer was evaporated under reduced pressure to obtain 3-bromo-4-hydroxybenzaldehyde as a pale yellow solid (quantitative yield).

reactant | 4-hydroxybenzaldehyde | 81.9 mmol, 10.0 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | bromine | 83.5 mmol, 4.30 mL | BrBr | Br2
reactant | water | 100 mL | O | H2O
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-4-hydroxybenzaldehyde | quantitative yield | BrC=1C=C(C=O)C=CC1O | C7H5BrO2
